US07009051B2
Preparation of 1-[6-(Pyridin-3-ylmethoxy)-pyridin-2-yl]-piperazine
A solution of 2-bromo-6-(pyridin-3-ylmethoxy)-pyridin-hydrochloride prepared as above (25.07 g, 94.6 mmol) was suspended in 275 mL of dry dioxane and then 65.06 g (756.5 mmol, 8 equiv.) of piperazine and 14.19 g (94.6 mmol) of NaI were added. The reaction mixture was then heated slowly to reflux under an atmosphere of dry N2. After about 1 h, the solids in the reaction mixture went partially into solution. Reflux was continued for 48 h at which time the reaction mixture was cooled and taken up in cold water, giving a pale yellow solution. This was extracted four times with ethyl acetate and the combined extracts were backwashed once with water and washed with saturated NaCl solution. The organic solution was dried with MgSO4 and the solvent was evaporated to give 20.7 g of pale yellow oil. This oil was dissolved in 500 mL of dry ether and stirred rapidly while 75 mL of 1 M HCl/ether solution was added dropwise (the mixture was seed with a small amount of mono-HCL salt prepared earlier by the same procedure on smaller scale). The HCl salt crystallized and was granulated overnight at room temperature under N2 atmosphere. The crystalline salt was filtered off and washed with dry ether and dried in a stream of dry N2 and residual ether was removed by pumping in high vacuum for 5 h to give 21.67 g (75%) of off white solid, m.p.=141–143° C.

reactant | HCl ether | 1 M, 75 mL | Cl.CCOCC
reactant | mono-HCL | CCN(CCN1C(=NC2=C1C(=O)N(C(=O)N2C)C)CC3=CC=CC=C3)CCO.Cl
solvent | ether | 500 mL | CCOCC | C4H10O
product | 1-[6-(Pyridin-3-ylmethoxy)-pyridin-2-yl]-piperazine | N1=CC(=CC=C1)COC1=CC=CC(=N1)N1CCNCC1 | C15H18N4O
